US05814654
A mixture of ethyl 1,3,4,5-tetrahydro-5-oxo-benz[cd]indole-2-carboxylate (1.00 g, 4.11 mmol), sodium methoxide (2.22 g, 41.1 mmol), guanidine hydrochloride (3.92 g, 41.1 mmol) and N,N-dimethylformamide (15 ml) was stirred overnight at room temperature. After completion of the reaction, a 5% aqueous sodium chloride solution was added to the reaction mixture under ice-cooling, followed by extraction with ethyl acetate (three times). The extract solution was washed twice with a 5% aqueous sodium hydrogencarbonate solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=95/5) to obtain N-(aminoiminomethyl) -1,3,4,5-tetrahydro-5-oxo-benz[cd]indole-2-carboxamide (1.00 g). This compound (1.00 g) was treated with a mixture of isopropanol/water and methanesulfonic acid (0.75 g, 7.80 mmol) to obtain crude N-(aminoiminomethyl)-1,3,4,5-tetrahydro-5-oxo-benz[cd]indole-2-carboxamide methanesulfonate. This crude product was recrystallized from methanesulfonic acid (0.04 g, 0.39 mmol) and water (36 ml) to obtain N-(aminoiminomethyl)-1,3,4,5-tetrahydro-5-oxo-benz[cd]indole-2-carboxamide methanesulfonate (0.72 g).

reactant | ethyl 1,3,4,5-tetrahydro-5-oxo-benz[cd]indole-2-carboxylate | 4.11 mmol, 1.00 g | O=C1CCC2=C(NC=3C=CC=C1C23)C(=O)OCC | C14H13NO3
reactant | sodium methoxide | 41.1 mmol, 2.22 g | C[O-].[Na+]
reactant | guanidine hydrochloride | 41.1 mmol, 3.92 g | Cl.NC(=N)N
reactant | sodium chloride | [Cl-].[Na+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(aminoiminomethyl) -1,3,4,5-tetrahydro-5-oxo-benz[cd]indole-2-carboxamide | 1.00 g | NN=CNC(=O)C=1NC=2C=CC=C3C2C1CCC3=O | C13H12N4O2
